US07297701B2
tert-Butyl 4-{N-[(6RS)-2-methoxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]-N-(prop-2-ynyl)amino}benzoate
To a round-bottomed flask containing the tetrafluoroborate salt (propargyl)Co2(CO)6+BF4− (0.271 g, 0.66 mmol) was added anhydrous dichloromethane (dried by distillation over P2O5; 22 ml). The nearly clear red dark solution was stirred at room temperature for few minutes under argon, then tert-butyl 4-{N-[(6RS)-2-methoxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]amino}benzoate (0.215 g, 0.51 mmol) was added in one portion. Stirring was continued at this temperature for 5 min then diisopropylethylamine (0.18 ml, 1.04 mmol) was added and the reaction mixture was stirred at room temperature for 45 min under argon. The reaction mixture was partitioned between ethyl acetate (150 ml) and brine (60 ml). The aqueous layer was extracted with more ethyl acetate (2×50 ml). The combined extracts were washed with 10% aqueous citric acid (50 ml), brine (50 ml), dried (Na2SO4), and concentrated in vacuo. Purification by column chromatography, on elution with 40% ethyl acetate in dichloromethane, gave a red solid: 0.285 g (75%). To a solution of this complex (0.267 g, 0.36 mmol) in ethanol (60 ml) was added Fe(NO3)3.9H2O (˜8.0 g). The clear solution was stirred at room temperature for 10 min then a second portion of Fc(NO3)3.9H2O (˜4.0 g) was added. The reaction mixture was stirred at room temperature for a longer 5 min then a final portion of Fe(NO3)3.9H2O (˜5.0 g) was added; the nearly clear solution was turned into a dark red mixture. Stirring was continued at room temperature for an extra 25 min, then the reaction mixture was partitioned between ethyl acetate (150 ml) and dilute brine (700 ml). The aqueous layer was extracted with more ethyl acetate (2×70 ml), The combined organics were washed with brine (3×70 ml), dried (Na2SO4), and concentrated in vacuo. Purification by column chromatography, on elution with 2% methanol in dichloromethane, afforded a white solid which was reprecipitated from dichloromethane/hexane: 0.122 g (74%), m.p. 191-192° C.; 1H-NMR (250 MHz, DMSO-d6, TMS) 1.51 (s, 9H, C(CH3)3), 2.23, 2.53 (m-obscured by DMSO peak) (2×m, each 1H, 7-H), 2.95-3.20 (m, 3H, C≡CH, 8-H), 3.34 (s (obscured by the H2O peak), 3H, OCH3), 3.96 (ABq, J=18.0 Hz, 2H, CH2C≡C), 4.31 (s, 2H, 2-CH2), 5.79 (t, J=7.0 Hz, 1H, 6-H), 7.02 (d, J=9.01 Hz, 2H, 3′,5′-H), 7.58, 7.80 (2×s, each 1H, 5-H, 9-H), 7.76 (d, J=8.45 Hz, 2′,6′-H), 12.17 (s, 1H, N3—H); MS (ESI, m/z) 482 {(M+Na)+, 10%}; Found: C, 70.32; H, 6.31; N, 9.09; C27H29N3O4 requires C, 70.57; H, 6.36; N, 9.14%.

reactant | tetrafluoroborate | 0.66 mmol, 0.271 g | F[B-](F)(F)F
reactant | dichloromethane | 22 ml | ClCCl | CH2Cl2
reactant | tert-butyl 4-{N-[(6RS)-2-methoxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]amino}benzoate | 0.51 mmol, 0.215 g | COCC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)NC3=CC=C(C(=O)OC(C)(C)C)C=C3 | C24H27N3O4
reactant | diisopropylethylamine | 1.04 mmol, 0.18 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | tert-Butyl 4-{N-[(6RS)-2-methoxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]-N-(prop-2-ynyl)amino}benzoate | COCC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)N(CC#C)C3=CC=C(C(=O)OC(C)(C)C)C=C3 | C27H29N3O4
